US06673780B2
6-(5,5-Dimethyl-6-hydroxy-hexane-1-sulfinyl)-2,2-dimethyl-hexan-1-ol
To a solution of 6-(5,5-dimethyl-6-hydroxy-hexyl-sulfanyl)-2,2-dimethyl-hexan-1-ol 5.1 g, 17.5 mmol) in glacial acetic acid (25 ml) was added hydrogen peroxide (50 wt. % in water; 1.20 g; 17.5 mmol). The reaction mixture was stirred at rt for 22 h, then diluted with water (200 ml), and extracted with chloroform (2×150 ml). The combined organic phases were subsequently washed with saturated NaHCO3 solution (3×100 ml) and saturated NaCl solution (100 ml), dried over MgSO4, concentrated in vacuo, and dried in high vacuo to give crude product (5.60 g; 105%) as a clear oil. 1H NMR (300 MHz, CDCl3) δ ppp=3.29 (AB, 2 H, J=12.2); 3.27 (AB, 2 H, J=12.2); 2.70 (m, 4 H); 2.48 (s br, 2 H); 1.76 (m, 4 H); 1.44 (m, 4 H); 1.30 (4 H); 0.87 (s, 6 H); 0.86 (s, 6H). 13C NMR (75 MHz, CDCl3) δ ppp=76.80; 71.39; 52.20; 38.08; 35.15; 24.21; 24.03; 23.66; 23.26. Calcd. for C16H35SO3 (MH+): 307.2307, found 307.2309.

reactant | 6-(5,5-dimethyl-6-hydroxy-hexyl-sulfanyl)-2,2-dimethyl-hexan-1-ol | 17.5 mmol, 5.1 g | CC(CCCCSCCCCC(CO)(C)C)(CO)C | C16H34O2S
reactant | hydrogen peroxide | 17.5 mmol, 1.20 g | OO | H2O2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | water | 200 ml | O | H2O
product | 6-(5,5-Dimethyl-6-hydroxy-hexane-1-sulfinyl)-2,2-dimethyl-hexan-1-ol | 5.60 g, 105% | CC(CCCCS(=O)CCCCC(CO)(C)C)(CO)C | C16H34O3S
